US06660744B1
A solution of N1-(4-bromo-2-methoxyphenyl)-N1-methyl-3-phenylpropanamide (0.729 g, 2.09 mmol) in dimethylformamide (10 mL) was treated with diboron pinacol ester (0.637 g, 2.51 mmol), potassium acetate (0.615 g, 6.27 mmol), and then [1,1′-Bis(diphenylphosphinoferrocene]dichloropalladium(II), complex with dichloromethane (1:1) (0.052 g, 0.063 mmol). The reaction mixture was stirred at 80° C. for 26 h, then additional diboron pinacol ester (0.318 g, 1.254 mmol), potassium acetate (0.312 g, 3.135 mmol), and 1,1′-Bis(diphenylphosphinoferrocene]dichloropalladium(II), complex with dichloromethane (1:1) (0.025 g, 0.031 mmol) were added. The reaction mixture was stirred for 48 h. The solvent was removed under reduced pressure, and dried under high vacuum. Dichloromethane was added to the black solid, and then filtered through a celite pad and a silica gel pad. The crude product was purified by flash chromatography on silica gel using 1:1 ethyl acetate:heptane as eluent. The column afforded 0.290 g (35%) N1-[2-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-N1-methyl-3-phenylpropanamide, and 0.148 g (18%) of a homocoupled bi-product. N1-[2-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-N1-methyl-3-phenylpropanamide: 1H NMR (DMSO-d6, 400 MHz) δ 7.33 (s, 1H), 7.29-7.27 (m, 2H), 7.22-7.13 (m, 5H), 7.06-7.03 (m, 1H), 3.81 (s, 3H), 3.03-3.00 (m, 3H), 2.75-2.71 (m, 4H), 2.30-2.15 (m, 2H), 2.15-2.05 (m, 2H), 1.30 (s, 12H); HPLC Waters 2690 Alliance HPLC (Symmetry Shield RP18 3.5 μm, 2.1×50 mm; 5%-95% acetonitrile-0.1 M ammonium acetate over 15 min, 0.5 mL/min) Rt 5.296 min (100%). Homocoupled bi-product: 1H NMR (DMSO, 400 MHz) δ 7.374 (s, 2H), 7.293-7.276 (m, 4H), 7.258-7.188 (m, 4H), 7.142-7.107 (m, 2H), 7.067-7.049 (m, 4H), 3.921 (s, 6H), 2.992 (s, 6H), 2.756-2.741 (m, 4H), 2.339-2.263 (m, 2H), 2.196-2.070 (m, 2H); HPLC Waters 2690 Alliance HPLC (Symmetry Shield RP18 3.5 μm, 2.1×50 mm; 5%-95% acetonitrile-0.1 M ammonium acetate over 15 min, 0.5 mL/min) Rt 7.910 min (100%).

reactant | N1-(4-bromo-2-methoxyphenyl)-N1-methyl-3-phenylpropanamide | 2.09 mmol, 0.729 g | BrC1=CC(=C(C=C1)N(C(CCC1=CC=CC=C1)=O)C)OC | C17H18BrNO2
reactant | diboron pinacol ester | 2.51 mmol, 0.637 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 6.27 mmol, 0.615 g | C(C)(=O)[O-].[K+]
reactant | dichloromethane | 0.063 mmol, 0.052 g | ClCCl | CH2Cl2
reactant | diboron pinacol ester | 1.254 mmol, 0.318 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 3.135 mmol, 0.312 g | C(C)(=O)[O-].[K+]
reactant | dichloromethane | 0.031 mmol, 0.025 g | ClCCl | CH2Cl2
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | N1-[2-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-N1-methyl-3-phenylpropanamide | 0.290 g, 35% | COC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)N(C(CCC1=CC=CC=C1)=O)C | C23H30BNO4
